US05256673
A solution of 1.5 g of diisobutylaluminiumhydride in 15 ml of toluene is added with cooling and stirring to a suspension of 3.9 g of 2-hydroxymethyl-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-6-methoxy-indole in 400 ml of toluene. The mixture is warmed to room temperature, refluxed for 3 hours with stirring, cooled and worked up in the usual manner. 2-Hydroxymethyl-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-6-hydroxy-indole is obtained.

reactant | diisobutylaluminiumhydride | 1.5 g | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2-hydroxymethyl-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-6-methoxy-indole | 3.9 g | OCC=1NC2=CC(=CC=C2C1CCCCN1CCC(=CC1)C1=CC=CC=C1)OC | C25H30N2O2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Hydroxymethyl-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-6-hydroxy-indole | OCC=1NC2=CC(=CC=C2C1CCCCN1CCC(=CC1)C1=CC=CC=C1)O | C24H28N2O2
